US07307090B2
c) 4-(3,4-dichlorophenoxy)-4′-methyl-1,4′-bipiperidine dihydrochloride
1,1-Dimethylethyl 4-(3,4-dichlorophenoxy)-4′-methyl-[1,4′-bipiperidine]-1′-carboxylate (100 mg) was dissolved in ethanol (5 ml). Hydrogen chloride (2 ml of 4M in dioxan) was added and the solution was stirred overnight. Further hydrogen chloride solution (2 ml) was added and the mixture was stirred for a further 2 h. The solvents were evaporated to give the title compound (95 mg; MS [M+H]+ (APCI+) 343/345).

reactant | 1,1-Dimethylethyl 4-(3,4-dichlorophenoxy)-4′-methyl-[1,4′-bipiperidine]-1′-carboxylate | 100 mg | ClC=1C=C(OC2CCN(CC2)C2(CCN(CC2)C(=O)OC(C)(C)C)C)C=CC1Cl | C22H32Cl2N2O3
reactant | Hydrogen chloride | 4M, 2 ml | Cl | ClH
reactant | hydrogen chloride | 2 ml | Cl | ClH
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-(3,4-dichlorophenoxy)-4′-methyl-1,4′-bipiperidine dihydrochloride | 95 mg | Cl.Cl.ClC=1C=C(OC2CCN(CC2)C2(CCNCC2)C)C=CC1Cl | InChI=1S/C17H24Cl2N2O.2ClH/c1-17(6-8-20-9-7-17)21-10-4-13(5-11-21)22-14-2-3-15(18)16(19)12-14;;/h2-3,12-13,20H,4-11H2,1H3;2*1H
